US04528288
A mixture of the known compound 6-chloro-4-hydrazinyl-2-methylthiopyrimidine (15 g, 0.079 mole) and 21 g (0.1 mole) of sodium methyl mercaptide in 250 ml of methanol was heated at reflux for about 16 hours, and was then allowed to cool to about 20° C. The solid precipitate was separated by filtration, washed with methanol and water and dried. The filtrate was evaporated to provide a solid residue. This residue was then washed thoroughly with water and combined with the precipitate. The solids were dissolved in 500 ml of acetic acid, and the solution was treated with decolorizing charcoal, and filtered. The filtrate was cooled and treated with ammonium hydroxide until it was slightly basic. The precipitate was collected by filtration, providing 10.5 g (65%) of 2,6-bis(methylthio)-6-hydrazinylpyrimidine, m.p. 120°-125° C.

reactant | 6-chloro-4-hydrazinyl-2-methylthiopyrimidine | 0.079 mole, 15 g | ClC1=CC(=NC(=N1)SC)NN | C5H7ClN4S
reactant | sodium methyl mercaptide | 0.1 mole, 21 g | C[S-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 2,6-bis(methylthio)-6-hydrazinylpyrimidine | 10.5 g, 65% | CSC=1NC(C=CN1)(NN)SC | C6H12N4S2
